US07241789B2
b). Methyl 3-(5-hydroxyindolyl)-2-methylpropanoate
A mixture of methyl 2-methyl-3-[5-benzyloxyindolyl]propanoate (0.18 g, 0.56 mmol), as prepared in the preceding step, 10% palladium(0) on carbon (0.018 g) in ethanol (10 mL) was stirred at ambient temperature under hydrogen (balloon) overnight (16 h). The catalyst was removed by filtration through Celite. The filtrate was concentrated to give the title compound as a light brown oil (0.11 g, 85%) which was used directly in the next reaction.

reactant | methyl 2-methyl-3-[5-benzyloxyindolyl]propanoate | 0.56 mmol, 0.18 g | CC(C(=O)OC)CC=1NC2=CC=C(C=C2C1)OCC1=CC=CC=C1 | C20H21NO3
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium(0) | [Pd] | Pd
product | Methyl 3-(5-hydroxyindolyl)-2-methylpropanoate | 0.11 g, 85% | OC=1C=C2C=C(NC2=CC1)CC(C(=O)OC)C | C13H15NO3
